"CSstage"
.param W=40u L=500n ID=100u R_L=10k R_s=10M
I1 0 1 I value=0 noise=0 dc=0 dcvar=0
R1 out 0 R value={R_L} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R2 1 0 R value={R_s} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
X1 out 1 0 0 CMOS18N W={W} L={L} ID={ID}
.end