CSstageNMOS_SLiCAP_Zt_EKV
.param W=220n L=180n ID=10u
.lib SLiCAP_C18.lib
I1 0 1 I value=0 noise=0 dc=0 dcvar=0
X1 out 1 0 0 CMOS18N W={W} L={L} ID={ID}
.end