CSstageNMOS_SPICE_Zt-Ai
.lib lib/log018.l TT
.param ID=10u VD=0.9 W=220n L=180n M=1 A=10u f=1Meg RS=10k CS=10p RL=10k CL=1p
B1 g1 0 V=0.9*(1+tanh(I(V1)))
C1 1 8 {CS}
C2 load 0 {CL}
E2 1 0 g1 0 1
F1 0 2 V1 1
I1 0 2 {ID}
I2 0 3 {ID}
I3 0 4 {ID}
I4 0 5 {ID}
I5 0 6 DC 0 AC 1 0
I6 0 7 DC 0 AC 1 0
I7 0 8 DC 0 AC 1 0 SIN 0 {A} {f}
M1 2 g1 0 0 nch m={M} w={W} l={L}
M2 3 6 0 0 nch m={M} w={W} l={L}
M3 4 7 0 0 nch m={M} w={W} l={L}
M4 5 8 0 0 nch m={M} w={W} l={L}
R1 1 8 {RS} noisy=1
R2 load 0 {RL} noisy=1
R3 1 6 1T noisy=1
R4 1 7 1T noisy=1
V1 2 0 {VD}
V3 4 0 {VD}
V4 5 load {VD}
V8 3 out {VD}
.end