complParlCS
* File: complParlCS.cir
* LTspice netlist file
.lib CMOS18-0.lib
* Circuit for determination of VgsP
M1 1 VgsP 0 0 C18pmos L=180n W=770n
E1 VgsP 0 2 0 1meg
V1 2 1 {VP}
I1 2 0 {IQ}
* Circuit for determination of VgsN
M2 3 VgsN 0 0 C18nmos L=180n W=220n
V2 3 4 {VN}
I2 0 4 {IQ}
E2 VgsN 0 4 0 1meg
* Biased complementary parallel stage
V5 5  0  {VP}
V6 0  6  {VN}
V7 in 0  DC 0
V3 9  in {VP}
V4 in 10 {VN}
E3 9  7  0    VgsP 1
E4 8  10 VgsN 0    1
M3 0 7 5 5 C18pmos L=180n W=770n
M4 0 8 6 6 C18nmos L=180n W=220n
.param VP=0.9 VN=0.9 IQ=1u
*
* LTspice command section
*
.DC V7 -900m 900m 36m
.step param IQ list 10n 100n 200n 500n 1u 2u 5u 10u
.end
