MOS_lookup

* Inputs
* Python script replaces <xx> with numeric value

.param ID     = 0.0001
.param VD     = 0.9
.param VS     = 0
.param VB     = 0
.param L      = 2.2e-07
.param W      = 1e-06
.param M      = 1
.param F      = 1000000000.0

* Python script inserts the SPICE netlist below.

.lib ../lib/log018.l TT
B1 g1 s1 V=0.9*(1+tanh(I(V7)))
E1 g2 in g1 0 1
F1 0 d1 V7 1
I1 0 d1 {ID}
M1 d1 g1 s1 b1 nch m={M} w={W} l={L}
M2 d2 g2 s2 b2 nch m={M} w={W} l={L}
V1 in 0 DC 0
V2 s2 0 DC {VS}
V3 d2 0 DC {VD}
V4 b2 0 DC {VB}
V5 s1 0 {VS}
V6 b1 0 {VB}
V7 d1 0 {VD}

.ac lin 1 {F} {F}
.options filetype = ascii
.csparam freq     = {F}
.control

let Cgg    = vector(1) ; total capacitance at the gate
let Cgs    = vector(1) ; gate-source capacitance
let Cgd    = vector(1) ; gate-drain capacitance
let Cgb    = vector(1) ; gate-bulk capacitance
let Css    = vector(1) ; total capacitance at the source
let Csg    = vector(1) ; source-gate capacitance
let Csb    = vector(1) ; source-bulk capacitance
let Csd    = vector(1) ; source-drain capacitance
let Cdd    = vector(1) ; total capacitance at the drain
let Cdg    = vector(1) ; drain-gate capacitance
let Cdb    = vector(1) ; drain-bulk capacitance
let Cds    = vector(1) ; drain-source capacitance
let Cbb    = vector(1) ; total capacitance at the bulk
let Cbs    = vector(1) ; bulk-source capacitance
let Cbd    = vector(1) ; bulk-drain capacitance
let Cbg    = vector(1) ; bulk-gate capacitance
let Ggg    = vector(1) ; total gate conductance
let Ggs    = vector(1) ; gate-source conductance
let Ggd    = vector(1) ; gate-drain conductance
let Ggb    = vector(1) ; gate-bulk conductance
let Gsg    = vector(1) ; source gate conductance
let Gss    = vector(1) ; total source conductance
let Gsd    = vector(1) ; source-drain conductance
let Gsb    = vector(1) ; source-bulk conductance
let Gdg    = vector(1) ; drain-gate conductance
let Gds    = vector(1) ; drain-source conductance
let Gdd    = vector(1) ; total drain conductance
let Gdb    = vector(1) ; drain-bulk conductance
let Gbg    = vector(1) ; bulk-gate conductance
let Gbs    = vector(1) ; bulk-source conductance
let Gbd    = vector(1) ; bulk-drain conductance
let Gbb    = vector(1) ; total bulk conductance
let vgs    = vector(1) ; gate-source operating voltage
let vds    = vector(1) ; drain-source operating voltage
let ids    = vector(1) ; drain-source operating current

settype current ids
settype voltage vgs
settype voltage vds
settype capacitance Cgg
settype capacitance Cgs
settype capacitance Cgd
settype capacitance Cgb
settype capacitance Css
settype capacitance Csg
settype capacitance Csb
settype capacitance Csd
settype capacitance Cdd
settype capacitance Cdg
settype capacitance Cdb
settype capacitance Cds
settype capacitance Cbb
settype capacitance Cbs
settype capacitance Cbd
settype capacitance Cbg
settype admittance Ggg
settype admittance Ggs
settype admittance Ggd
settype admittance Ggb
settype admittance Gss
settype admittance Gsg
settype admittance Gsb
settype admittance Gsd
settype admittance Gdd
settype admittance Gdg
settype admittance Gdb
settype admittance Gds
settype admittance Gbb
settype admittance Gbs
settype admittance Gbd
settype admittance Gbg

* ==================== Analysis 1: VG ====================
alter @V1[ac] = [ 1 0 ]
alter @V2[ac] = [ 0 0 ]
alter @V3[ac] = [ 0 0 ]
alter @V4[ac] = [ 0 0 ]
run
let Cgg  = -imag(V1#branch)/(2*PI*freq)
let Cgs  = imag(V2#branch)/(2*PI*freq)
let Cgd  = imag(V3#branch)/(2*PI*freq)
let Cgb  = imag(V4#branch)/(2*PI*freq)
let Ggg  = -real(V1#branch)
let Ggs  = real(V2#branch)
let Ggd  = real(V3#branch)
let Ggb  = real(V4#branch)
let vgs  = @M1[vgs]
let vds  = @M1[vds]
let ids  = @M1[id]

* ==================== Analysis 2: VS ====================
alter @V1[ac] = [ 0 0 ]
alter @V2[ac] = [ 1 0 ]
alter @V3[ac] = [ 0 0 ]
alter @V4[ac] = [ 0 0 ]
run
let Csg  = imag(V1#branch)/(2*PI*freq)
let Css  = -imag(V2#branch)/(2*PI*freq)
let Csd  = imag(V3#branch)/(2*PI*freq)
let Csb  = imag(V4#branch)/(2*PI*freq)
let Gsg  = real(V1#branch)
let Gss  = -real(V2#branch)
let Gsd  = real(V3#branch)
let Gsb  = real(V4#branch)

* ==================== Analysis 3: VD ====================
alter @V1[ac] = [ 0 0 ]
alter @V2[ac] = [ 0 0 ]
alter @V3[ac] = [ 1 0 ]
alter @V4[ac] = [ 0 0 ]
run
let Cdg  = imag(V1#branch)/(2*PI*freq)
let Cds  = imag(V2#branch)/(2*PI*freq)
let Cdd  = -imag(V3#branch)/(2*PI*freq)
let Cdb  = imag(V4#branch)/(2*PI*freq)
let Gdg  = real(V1#branch)
let Gds  = real(V2#branch)
let Gdd  = -real(V3#branch)
let Gdb  = real(V4#branch)

* ==================== Analysis 4: VB ====================
alter @V1[ac] = [ 0 0 ]
alter @V2[ac] = [ 0 0 ]
alter @V3[ac] = [ 0 0 ]
alter @V4[ac] = [ 1 0 ]
run
let Cbg  = imag(V1#branch)/(2*PI*freq)
let Cbs  = imag(V2#branch)/(2*PI*freq)
let Cbd  = imag(V3#branch)/(2*PI*freq)
let Cbb  = -imag(V4#branch)/(2*PI*freq)
let Gbg  = real(V1#branch)
let Gbs  = real(V2#branch)
let Gbd  = real(V3#branch)
let Gbb  = -real(V4#branch)

write MOS_OP.out vgs vds Cgg Cgs Cgd Cgb Css Csg Csb Csd Cdd Cdg Cdb Cds Cbb Cbs Cbd Cbg Ggg Ggs Ggd Ggb Gss Gsg Gsb Gsd Gdd Gdg Gdb Gds Gbb Gbs Gbd Gbg ids

.endc
.end
