PMOS
.lib ../lib/log018.l TT
B1 g1 s1 V=-0.9*(1+tanh(I(V7)))
E1 g2 in g1 0 1
F1 0 d1 V7 1
I1 0 d1 {ID}
M1 d1 g1 s1 b1 pch m={M} w={W} l={L}
M2 d2 g2 s2 b2 pch m={M} w={W} l={L}
V1 in 0 DC 0
V2 s2 0 DC {VS}
V3 d2 0 DC {VD}
V4 b2 0 DC {VB}
V5 s1 0 {VS}
V6 b1 0 {VB}
V7 d1 0 {VD}
.end