diffPair
.lib lib/log018.l TT
.param W=220n L=180n M=1
.param Iss =100n
E1 2 3 2 1 -1
I1 ss 0 {Iss}
M1 4 1 ss 0 nch m={M} w={W} l={L}
M2 5 3 ss 0 nch m={M} w={W} l={L}
V1 6 0 1.8
V2 2 0 1.2
V3 1 2 DC 0
V4 6 4 0
V5 6 5 0
.end