diffPairVout1
.lib lib/log018.l TT
.param W=220n L=180n M=1
.param Iss =100n VCM=0.9
B1 1 outP I=I(I1)/2-1k*((V(outP)+V(outN))/2-V(CM))
B2 1 outN I=I(I1)/2-1k*((V(outP)+V(outN))/2-V(CM))
E1 3 4 3 2 -1
I1 ss 0 {Iss}
M1 outP 2 ss 0 nch m={M} w={W} l={L}
M2 outN 4 ss 0 nch m={M} w={W} l={L}
V1 1 0 1.8
V2 3 0 1.2
V3 2 3 DC 0
V4 CM 0 {VCM}
.end