diffPairVout2
.lib lib/log018.l TT
.param Iss =100n VCM=0.9
.param W=220n L=180n M=1
B1 ss 0 I={Iss}+1k*((V(outP)+V(outN))/2-V(CM))
E1 2 3 2 1 -1
I1 4 outP {Iss/2}
I2 4 outN {Iss/2}
M1 outP 1 ss 0 nch m={M} w={W} l={L}
M2 outN 3 ss 0 nch m={M} w={W} l={L}
V1 4 0 1.8
V2 2 0 1.2
V3 1 2 DC 0
V4 CM 0 {VCM}
.end