diffPairVoutBiased1
.lib lib/log018.l TT
.param WN=220n L_N=180n MN=1 WP=220n LP=180n MP=1
.param Iss =10u
E1 2 3 2 1 -1
I1 4 0 {Iss}
M1 outP 1 4 0 nch m={MN} w={WN} l={L_N}
M2 outN 3 4 0 nch m={MN} w={WN} l={L_N}
M3 outN outP 5 5 pch m={MP} w={WP} l={LP}
M4 outP outP 5 5 pch m={MP} w={WP} l={LP}
M5 outP outN 5 5 pch m={MP} w={WP} l={LP}
M6 outN outN 5 5 pch m={MP} w={WP} l={LP}
V1 5 0 1.8
V2 2 0 1.2
V3 1 2 DC 0
.end