diffPairVoutBiased2
.lib lib/log018.l TT
.param Iss =10u
.param WN=220n L_N=180n MN=1 WP=220n LP=180n MP=1
E1 2 3 2 1 -1
I1 4 0 {Iss/2}
M1 outP 1 5 0 nch m={MN} w={WN} l={L_N}
M2 outN 3 5 0 nch m={MN} w={WN} l={L_N}
M3 outP 4 6 6 pch m={MP} w={WP} l={LP}
M4 outN 4 6 6 pch m={MP} w={WP} l={LP}
M5 4 4 6 6 pch m={MP} w={WP} l={LP}
M6 5 7 0 0 nch m={MN} w={WN} l={L_N}
M7 7 7 0 0 nch m={MN} w={WN} l={L_N}
M8 6 outP 7 7 nch m={MN} w={WN} l={L_N}
M9 6 outN 7 7 nch m={MN} w={WN} l={L_N}
V1 6 0 1.8
V2 2 0 1.2
V3 1 2 DC 0
.end