diffPairVoutCM
.lib lib/log018.l TT
.param Iss =100n VM=0.4
.param W=220n L=180n M=1
E1 2 3 2 1 -1
F1 4 out V4 1
I1 ss 0 {Iss}
M1 5 1 ss 0 nch m={M} w={W} l={L}
M2 out 3 ss 0 nch m={M} w={W} l={L}
V1 4 0 1.8
V2 2 0 1.2
V3 1 2 DC 0
V4 4 5 {VM}
.end