diffPairVoutCMbiased
.lib lib/log018.l TT
.param Iss =10u VM=0.4
.param WN=220n L_N=180n MN=1 WP=220n LP=180n MP=1
E1 2 3 2 1 -1
I1 ss 0 {Iss}
M1 4 1 ss 0 nch m={MN} w={WN} l={L_N}
M2 out 3 ss 0 nch m={MN} w={WN} l={L_N}
M3 out 4 5 5 pch m={MP} w={WP} l={LP}
M6 4 4 5 5 pch m={MP} w={WP} l={LP}
V1 5 0 1.8
V2 2 0 0.9
V3 1 2 DC 0
.end