"A1_controller_cascode_pmos"
.source V1
.param L_s=120m R_s=875 C_ell=10p
.param W={W_P} L={L_P} ID={ID_P}
.detector V_out
.lgref Gm_M1_X1
.lib C18.lib
C1 out 3 C value={tau_i/R_i} vinit=0
C2 out 0 C value={C_ell} vinit=0
C3 in 0 C value={C_s} vinit=0
L1 1 in L value={L_s} iinit=0
R1 1 2 R value={R_s} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R2 in 0 R value=113k noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
R3 3 in R value={R_i} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
V1 2 0 V value=0 noise=0 dc=0 dcvar=0
X1 mid 3 0 0 CMOS18P W={W_P} L={L_P} ID={ID_P}
X2 out 0 mid 0 CMOS18P W={W_P} L={L_P} ID={ID_P}
.end