"A1_noise_feedbacknetwork"
.source V1
.detector V_out
C1 1 0 C value={C_s} vinit=0
E1 out 0 in 0 E value={1/s/tau_i}
L1 2 1 L value={L_s} iinit=0
R1 2 3 R value={R_s} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
R3 1 in R value={R_i} noisetemp={T} noiseflow=0 dcvar=0 dcvarlot=0
V1 3 0 V value=0 noise=0 dc=0 dcvar=0
.end