Trimp
.detector V_out
.param C_s=1p C_t=0.2p IG=0
C1 1 0 C value={C_s} vinit=0
C2 out 1 C value={C_t} vinit=0
I1 0 1 I value=0 noise=0 dc=0 dcvar=0
N1 out 0 1 0 N
.end