.subckt DIN_A outP outN inP inN
.param a_0=1
.param a_1=0.0171714881392805
.param a_2=8.66240986229945e-5
.param a_3=1.08260399772761e-7
.param a_4=2.18072514015132e-11
.param a_5=5.14693104782210e-16
.param a_6=3.24101285871316e-21
.param b_0=0 b_1=0 b_2=0 b_3=0 b_4=2.39511182980200e-11 b_5=0 b_6=0
C1 1 0 1
C2 2 0 1
C3 3 0 1
C4 4 0 1
C5 5 0 1
C6 6 0 1
G1 1 0 7 0 1
G2 2 0 1 0 1
G3 3 0 2 0 1
G4 4 0 3 0 1
G5 5 0 4 0 1
G6 6 0 5 0 1
G7 7 0 7 0 {a_6}
G8 7 0 1 0 {a_5}
G9 7 0 2 0 {a_4}
G10 7 0 3 0 {a_3}
G11 7 0 4 0 {a_2}
G12 7 0 5 0 {a_1}
G13 7 0 6 0 {a_0}
G14 7 0 inP inN 1
G15 8 0 7 0 {b_6}
G16 8 0 1 0 {b_5}
G17 8 0 2 0 {b_4}
G18 8 0 3 0 {b_3}
G19 8 0 4 0 {b_2}
G20 8 0 5 0 {b_1}
G21 8 0 6 0 {b_0}
H1 outP outN V1 1
V1 8 0 0
.ends