Trimp
.detector V_out
.param C_s=1p C_t=0.2p IG=0
C1 1 0 C value={C_s} vinit=0
C2 out 1 C value={C_t} vinit=0
I1 0 1 I value=0 noise=0 dc=0 dcvar=0
X1 out 0 1 0 MN18_noisyNullor W={W} L={L} ID={ID} IG={IG}
.lib SLiCAP_C18.lib
.end